US07384934B2
2-(4-Chloro-2-nitro-phenylamino)-thiophene-3-carbonitrile
Combine 1,4-dichloro-2-nitro-benzene (3.87 g, 20.13 mmol), 2-aminothiophene-3-carbonitrile (2.50 g, 20.13 mmol), and DMSO (25.0 ml). Add lithium hydroxide monohydrate (1.69 g, 40.27 mmol) all at once and then stir the mixture at ambient temperature for 24 hours. Pour the mixture onto ice chips and stir it for 1.5 hours. Remove the resulting orange precipitate by vacuum filtration and then dry it under vacuum to give 4.85 g (86%) of the title compound: mass spectrum (ion spray): m/z=279.1 (M+1).

reactant | 1,4-dichloro-2-nitro-benzene | 20.13 mmol, 3.87 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 2-aminothiophene-3-carbonitrile | 20.13 mmol, 2.50 g | NC=1SC=CC1C#N | C5H4N2S
reactant | lithium hydroxide monohydrate | 40.27 mmol, 1.69 g | O.[OH-].[Li+]
solvent | DMSO | 25.0 ml | CS(=O)C | C2H6OS
product | 2-(4-Chloro-2-nitro-phenylamino)-thiophene-3-carbonitrile | 4.85 g, 86% | ClC1=CC(=C(C=C1)NC=1SC=CC1C#N)[N+](=O)[O-] | C11H6ClN3O2S
